US04490369
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4-n-butoxy-phenyl}-ethyl)amino]-propane
This compound was prepared analogous to Example 5(b) by reaction of 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane with N-methyl-N-[2-(4-n-butoxy-phenyl)-ethyl]-amine.

reactant | 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | N-methyl-N-[2-(4-n-butoxy-phenyl)-ethyl]-amine | CNCCC1=CC=C(C=C1)OCCCC | C13H21NO
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4-n-butoxy-phenyl}-ethyl)amino]-propane | COC1=CC2=C(CC(N(CC2)CCCN(CCC2=CC=C(C=C2)OCCCC)C)=O)C=C1OC | C28H40N2O4
